US05190959
The procedure of Example 1 (a) was repeated except for using diphenylmethyl bromide and 4-hydroxy-1-[2-(2-nitrophenoxy)ethyl]piperidine instead of diphenylmethyl bromide and 4-hydroxy-1-[3-(2-nitrophenoxy)propyl]piperidine to give oily 4-diphenylmethoxy-1-[2-(2-nitrophenoxy)ethyl]piperidine.

reactant | diphenylmethyl bromide | C1(=CC=CC=C1)C(C1=CC=CC=C1)Br | C13H11Br
reactant | 4-hydroxy-1-[2-(2-nitrophenoxy)ethyl]piperidine | OC1CCN(CC1)CCOC1=C(C=CC=C1)[N+](=O)[O-] | C13H18N2O4
reactant | 4-hydroxy-1-[3-(2-nitrophenoxy)propyl]piperidine | OC1CCN(CC1)CCCOC1=C(C=CC=C1)[N+](=O)[O-] | C14H20N2O4
product | 4-diphenylmethoxy-1-[2-(2-nitrophenoxy)ethyl]piperidine | C1(=CC=CC=C1)C(OC1CCN(CC1)CCOC1=C(C=CC=C1)[N+](=O)[O-])C1=CC=CC=C1 | C26H28N2O4
